US09162987B2
4-Iodo-6-(quinolin-3-yl)pyrimidine
The compound was prepared according to Example 1 using quinolin-3-boronic acid and 4,6-dichloropyrimidine. The resultant chloro compound was converted to iodo with hydroiodic acid as described in the general procedure.

reactant | quinolin-3-boronic acid | N1=CC(=CC2=CC=CC=C12)B(O)O | C9H8BNO2
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | hydroiodic acid | I | HI
product | 4-Iodo-6-(quinolin-3-yl)pyrimidine | IC1=NC=NC(=C1)C=1C=NC2=CC=CC=C2C1 | C13H8IN3
